US04515940
When these processes are repeated using variously substituted aryldiazonium salts, very variable yields of between 40 and 85% of theory are obtained. For example, p-chlorobenzenediazonium chloride gives 43%, m-chlorobenzenediazonium chloride gives 36%, m-toluenediazonium chloride gives 69%, o-chlorobenzenediazonium chloride gives 36%, p-dimethylaminobenzenediazonium chloride gives 54%, p-carbamoylbenzenediazonium chloride gives 58%, benzenediazonium chloride gives 72%, p-methoxybenzenediazonium chloride gives 80% and p-sulfobenzenediazonium chloride gives 10 to 20% of the corresponding diazosulfonate.

reactant | p-chlorobenzenediazonium chloride | [Cl-].ClC1=CC=C(C=C1)[N+]#N
reactant | m-chlorobenzenediazonium chloride | [Cl-].ClC=1C=C(C=CC1)[N+]#N
product | m-toluenediazonium chloride | [Cl-].C1(=CC(=CC=C1)[N+]#N)C | InChI=1S/C7H7N2.ClH/c1-6-3-2-4-7(5-6)9-8;/h2-5H,1H3;1H/q+1;/p-1
